US06673800B2
Preparation of 1-(2-Fluorophenyl)4-(3-[3-(3-phenoxyphenyl)4,5-dihydroisoxazol-5-yl)propyl]piperazine
3-[3-(3-Phenoxyphenyl)-4,5-dihydroisoxazol-5-yl]propanal (38.0 mg, 0.122 mmol), 1-(2-fluorophenyl)piperazine (20.0 mg, 0.111 mmol), molecular sieve (5 beads) and NaBH(OAc)3 (70.5 mg, 0.333 mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 35.5 mg (70.1 %) of the target compound was obtained.

reactant | 3-[3-(3-Phenoxyphenyl)-4,5-dihydroisoxazol-5-yl]propanal | 0.122 mmol, 38.0 mg | O(C1=CC=CC=C1)C=1C=C(C=CC1)C1=NOC(C1)CCC=O | C18H17NO3
reactant | 1-(2-fluorophenyl)piperazine | 0.111 mmol, 20.0 mg | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | NaBH(OAc)3 | 0.333 mmol, 70.5 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Fluorophenyl)4-(3-[3-(3-phenoxyphenyl)4,5-dihydroisoxazol-5-yl)propyl]piperazine | 35.5 mg, 70.1 % | FC1=C(C=CC=C1)N1CCN(CC1)CCCC1CC(=NO1)C1=CC(=CC=C1)OC1=CC=CC=C1 | C28H30FN3O2
